US05095016
Preparation of 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-[(N-cyano-benzimidoyl)amino]-2H-benzo[b]pyran-3-ol
1.89 g of ethyl N-cyanobenzimidate was dissolved in 5 ml of dimethylformamide, and 2.15 g of 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-amino-2H-benzo[b]pyran-3-ol was added thereto. The mixture was reacted at a temperature of from 100° to 120° C. for 2 hours. The reaction mixture was cooled, then dissolved in 100 ml of ethyl acetate, washed four times with a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, ethyl acetate was distilled off under reduced pressure. The residual oily substance was purified by silica gel column chromatography to obtain 1.32 g of the above identified compound in the form of crystals.

reactant | ethyl N-cyanobenzimidate | 1.89 g | C(#N)N=C(C1=CC=CC=C1)OCC | C10H10N2O
reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-amino-2H-benzo[b]pyran-3-ol | 2.15 g | C(#N)C1=CC2=C(OC([C@H]([C@@H]2N)O)(C)C)C=C1 | C12H14N2O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-4-[(N-cyano-benzimidoyl)amino]-2H-benzo[b]pyran-3-ol | C(#N)C1=CC2=C(OC([C@H]([C@@H]2NC(C2=CC=CC=C2)=NC#N)O)(C)C)C=C1 | C20H18N4O2
